Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PE, liver/lung lesions
 
Major Surgical or Invasive Procedure:
___ US guided liver biopsy of nodule

 
History of Present Illness:
___ M with depression and BRCA 1 mutation presenting
after outpatient CT C/A/P showing diffuse hepatic and pulmonary
mass c/f metastasis as well as PE with low clot burden. He was
diagnosed with superficial thrombophlebitis of GSV in his right
leg ~10 weeks prior and placed on Eliquis for approx. 45 days,
with 3 weeks of 10mg BID. He was off for about one week and
started having right thigh pain again and was restarted at 5mg
BID. Given hx of BRCA 1, malignancy w/u was pursued as
outpatient. Upon CT findings, patient was told to report to the
ED for expedited malignancy w/u and treatment of PE.  Patient
denies any chest pain or shortness of breath. Denies
lightheadedness or dizziness. No numbness tingling or weakness.
No fevers or chills. No nausea vomiting. No diarrhea. Patient
endorses mild increase in urination. Reports last 5 mg of 
Eliquis
this afternoon.

- In the ED, initial vitals were:

Yest 18:11 98.9 80 140/80 20 98% RA 

- Exam was notable for:
 Mild skin changes to inner right thigh, no erythema, distal
pulses intact, sensation intact

- Labs were notable for:
11.0  13.2  110 
      40.3 

Chem ___.0  PTT: 31.0  INR: 2.1  

ALT: 21 AP: 482 Tbili: 0.5 Alb: 4.0 
AST: 46  Lip: 83 

HCG:7
Trop <0.01

UA with small blood

- Studies were notable for:
CT Chest/Abd/Pelvis IMPRESSION:
1. Findings most compatible with diffuse hepatic metastases.
Additionally there are multiple pulmonary nodules which may
represent metastases or be infectious or inflammatory in nature.
Small suspicious peritoneal nodule.
2. No definite site of primary malignancy is determined
(considerations include lung/bronchogenic tumor, carcinoid,
occult breast, gastrointestinal or biliary tumor, or other).
Additionally there is slight fullness of the pancreatic uncinate
process without a focal mass.
3. Probable chronic/benign splenic mass.
4. Indeterminate minor thickening of the left adrenal.
5. Additional evaluation recommended with PET/CT, versus
percutaneous biopsy of one of the liver masses, to help guide
further management and workup.
6. Incidental pulmonary embolism. Low clot burden.

- The patient was given:
n/a

On arrival to the floor, he endorses history above. Notes mild
b/l lower abdominal pain over past few months. Has had ~8 lb wt
loss which was intentional. Denies fatigue, fever/chills, 
sweats,
cough, dyspnea, N/V, diarrhea, constipation, dysuria, or
hematuria. 
 
Past Medical History:
Depression
BRCA 1 mutation
 
Social History:
___
Family History:
Mother and sister died from ovarian cancer (+BRCA1)
No hx of heart disease, colon cancer, prostate ca, melanoma.
 
Physical Exam:
ADMISSION EXAM
==============

VITALS:98.2 138 / 79 78 12 97  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, mild TTP lower
abdomen/suprabubic region, w/o rebound or guarding. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Mild bruising left
thigh without warmth, erythema or cords. 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal distal sensation.

DISCHARGE EXAM
==============
98.4 ___ 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, mild TTP lower
abdomen/suprabubic region, w/o rebound or guarding. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Mild bruising left
thigh without warmth, erythema or cords. 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal distal sensation.

 
Pertinent Results:
ADMISSION LABS:
___ 08:15PM   ___ PTT-31.0 ___
___ 08:15PM   WBC-11.0* RBC-4.27* HGB-13.2* HCT-40.3 MCV-94 
MCH-30.9 MCHC-32.8 RDW-13.7 RDWSD-47.3*
___ 08:15PM   ALT(SGPT)-21 AST(SGOT)-46* ALK PHOS-482* TOT 
BILI-0.5

IMPORTANT STUDIES: ___ CT SCAN
CT CHEST:
 
Tracheobronchial air column:  No significant abnormality.
 
Lung parenchyma:  Numerous randomly distributed small pulmonary 
nodules with
irregular margins are noted throughout each lung, one of the 
largest of these is
at the right apex and measures just under 1 cm in diameter 
(33:3). No mass or
lobar consolidation.
 
Pleura:  No pleural fluid.
 
Mediastinum:  Unremarkable.
 
Nodes:  No abnormally enlarged lymph nodes by size criteria.
 
Heart and great vessels:  Mild calcifications of the coronary 
arteries. No
cardiomegaly or pericardial effusion. Incidental note made of 
low-density
nodular tissue occupying a left lower lobe segmental pulmonary 
artery (54:2).
 
Lower neck:  Unremarkable
 
Chest wall:  Bilateral gynecomastia. 
 
Bones:  Multilevel spondylosis. No concerning osseous lesions.
 
CT ABDOMEN:
 
Liver:  Diffuse ill-defined hypodense masses of varying sizes 
throughout both
lobes of the liver, too numerous to count.
 
Gallbladder:  No significant abnormality.
 
Pancreas:  Fullness of the uncinate process without discrete 
mass. No ductal
dilation.
 
Spleen:  No splenomegaly. Peripherally calcified low-density 
mass in the spleen,
approximately 2.5 cm in size.
 
Adrenal glands:  Mild thickening of the left adrenal inferiorly. 
Normal right
adrenal.
 
Kidneys:  No significant abnormality.
 
Nodes:  No abnormally enlarged lymph nodes by size criteria.
 
Vascular:  No significant abnormality.  The abdominal aorta and 
inferior vena
cava are unremarkable.
 
Bowel:  Nondistended and without wall thickening. Large amount 
of stool
throughout the colon. Normal appendix.
 
CT PELVIS:
 
Free fluid:  Small amount. No organized collection.
 
Urinary bladder:  Unremarkable
 
GU:  The prostate gland is unremarkable. 
 
Bones, soft tissues and abdominal wall:  Multilevel spondylosis. 
Small sclerotic
lesion in the right acetabulum, likely a bone island.
 
Additional findings:  Irregularly marginated soft tissue nodule 
in the left
hemiabdomen measuring 1.2 cm in diameter (137:2, 43:605).
 
IMPRESSION:
  
 
1. Findings most compatible with diffuse hepatic metastases. 
Additionally there
are multiple pulmonary nodules which may represent metastases or 
be infectious
or inflammatory in nature. Small suspicious peritoneal nodule.
2. No definite site of primary malignancy is determined 
(considerations include
lung/bronchogenic tumor, carcinoid, occult breast, 
gastrointestinal or biliary
tumor, or other). Additionally there is slight fullness of the 
pancreatic
uncinate process without a focal mass.
3. Probable chronic/benign splenic mass.
4. Indeterminate minor thickening of the left adrenal.
5. Additional evaluation recommended with PET/CT, versus 
percutaneous biopsy of
one of the liver masses, to help guide further management and 
workup.
6. Incidental pulmonary embolism. Low clot burden.

DISCHARGE LABS:

___ 05:52AM BLOOD WBC-10.7* RBC-4.08* Hgb-12.6* Hct-38.5* 
MCV-94 MCH-30.9 MCHC-32.7 RDW-13.5 RDWSD-46.9* Plt ___
___ 05:52AM BLOOD ___ PTT-45.2* ___
___ 05:52AM BLOOD Plt ___
___ 05:52AM BLOOD Glucose-90 UreaN-17 Creat-0.9 Na-142 
K-4.6 Cl-104 HCO3-25 AnGap-13
___ 05:52AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.___ M with PMH depression and BRCA 1 mutation and recent 
superficial thrombophlebitis refractory to apixaban presented 
after outpatient CT C/A/P (for mild diffuse abdominal pain) 
showed diffuse hepatic and pulmonary masses/nodules concerning 
for metastasis with no clear primary as well as ? PE with low 
clot burden vs. invasive lung lesion into a segmental PA. He was 
admitted for expedited work up and went for US guided liver 
biopsy of presumed metastasis. Results were pending at time of 
discharge. He will follow-up with his PCP and ___ oncology.

# Diffuse hepatic and pulmonary nodules concerning for 
metastatic cancer: Unknown primary based on the CT scan. Cancer 
screening UTD. Fullness in uncinate of pancreas, but no discrete 
mass. US guided liver biopsy performed on ___. Pathology 
pending at discharge. Chose to follow up with ___ oncology 
for further oncologic care.

# Superficial thrombophlebitis
# ? PE: Given history of superficial thrombophlebitis that began 
to worsen when dropped from apixaban 10 mg BID to 5 mg BID as 
well as possible PE on CT scan i/s/o of presumed metastatic 
cancer (most likely GI in origin), patient was presumed to be 
quite high risk to clot and suspected failure of apixiban. Thus, 
started on BID enoxaparin therapeutic dosing (80 mg BID).

TRANSITIONAL ISSUES:
[] Patient to follow up w/ PCP and ___ oncology
[] Follow up pathology
[] Patient discharged on BID lovenox for PE after suspicion 
above for failure while on apixiban. Could discuss alternative 
AC strategies at visit w/ outpatient oncologist.
[] Consider PET/CT or MRCP if origin of malignancy remains 
unknown

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO QAM 
2. Escitalopram Oxalate 20 mg PO QHS 
3. TraZODone 50 mg PO QHS 
4. Apixaban 5 mg PO BID 
5. Vitamin D ___ UNIT PO DAILY 
6. Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice a day Disp #*60 
Syringe Refills:*0 
2.  BuPROPion (Sustained Release) 200 mg PO QAM  
3.  Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY  
4.  Escitalopram Oxalate 20 mg PO QHS  
5.  TraZODone 50 mg PO QHS  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Liver and lung nodules
# Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital for an expedited  evaluation and 
biopsy for concern for cancer.
- You were also in the hospital fo suspicion of a pulmonary 
embolism

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- An ultrasound guided liver biopsy was obtained.
- You were treated with a heparin drip for your pulmonary 
embolism, before converting to lovenox after your procedure. 
Apixiban did not seem to adequately decrease your propensity to 
form blood clots, so you should not be restarted on this 
medication.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___